*aqfp_single
*main cirquit

B01 0 1 jmitll area=50
R01 0 1 0.9

L01 1 2 1.31p
P_left 2 3 sin(0 3.14 1G 0 )
P_right 3 4 sin(0 3.14 1G 0 )
L02 4 5 1.31p

B02 5 0 jmitll area=50
R02 5 0 0.9

L0q 3 0 10.5p

Iin 0 3 5u

.model jmitll jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=60, rN=1.37, icrit=1uA)

.tran 0.25p 2000p 0 0.25p
.file AQFP_TEST.dat
.plot p(P_left) p(L0q)
.plot p(B01) p(B02)
.end
